US07842685B2
Reaction of 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde (100.0 mg, 0.267 mmol) and 2-(azetidin-3-yl)acetic acid trifluoroacetic acid (88.1 mg, 0.384 mmol) according to Reference R and the general procedure for reductive amination to give 2-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzyl)azetidin-3-yl)acetic acid as a tan solid. MS (ESI) m/z: Calculated: 473.2; Observed: 474.1 (M++1).

reactant | 3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzaldehyde | 0.267 mmol, 100.0 mg | FC=1C=C(C=O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C22H15FN2OS
reactant | 2-(azetidin-3-yl)acetic acid trifluoroacetic acid | 0.384 mmol, 88.1 mg | FC(C(=O)O)(F)F.N1CC(C1)CC(=O)O
product | 2-(1-(3-fluoro-4-(5-(1-phenylcyclopropyl)thiazolo[5,4-b]pyridin-2-yl)benzyl)azetidin-3-yl)acetic acid | FC=1C=C(CN2CC(C2)CC(=O)O)C=CC1C=1SC2=NC(=CC=C2N1)C1(CC1)C1=CC=CC=C1 | C27H24FN3O2S
